US05527800
A mixture of 5.0 g of 1-benzoyl-1,2,2a,3,4,5-hexahydrobenz[cd]indol-5-one, 2.7 g of potassium hydroxide, 2 ml of hydrazine hydrate and 20 ml of ethylene glycol was heated at 120° C. for 2 hours and then at 190° C. for 3 hours. After mixture cooling, water was added, and the reaction product was extracted with dichloromethane. After the extract was dried over magnesium sulfate, the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (developing solvent: dichloromethane-ethyl acetate=10:1 (v/v)) to yield 1.9 g of 1,2,2a,3,4,5-hexahydrobenz[cd]indole as a colorless crystal having a melting point of 58° to 59° C.

reactant | 1-benzoyl-1,2,2a,3,4,5-hexahydrobenz[cd]indol-5-one | 5.0 g | C(C1=CC=CC=C1)(=O)N1CC2C=3C(=CC=CC13)C(CC2)=O | C18H15NO2
reactant | potassium hydroxide | 2.7 g | [OH-].[K+]
reactant | hydrazine hydrate | 2 ml | O.NN
reactant | ethylene glycol | 20 ml | C(CO)O | C2H6O2
solvent | water | O | H2O
product | 1,2,2a,3,4,5-hexahydrobenz[cd]indole | 1.9 g | N1CC2C=3C(=CC=CC13)CCC2 | C11H13N
